US07700641B2
Synthesis of 2′-oxo-1′-pentyl-1′,2′-dihydrospiro[1-benzofuran-3,3′-indole]-5-carbonitrile
Following the procedure as described in EXAMPLE 30, and making non-critical variations using 5-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, the title compound was obtained (78%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.51 (dt, 1H), 7.34 (dt, 1H), 7.12-6.91 (m, 5H), 5.01 (d, 1H), 4.76 (d, 1H), 3.86-3.63 (m, 2H), 1.80-1.68 (m, 2H), 1.43-1.32 (m, 4H), 0.92 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 176.2, 164.1, 142.6, 134.8, 131.4, 130.8, 129.6, 127.8, 123.9, 123.5, 118.8, 111.5, 109.1, 104.7, 80.6, 57.3, 40.6, 29.0, 27.1, 22.3, 14.0; MS (ES+) m/z 333.5 (M+1).

reactant | 5-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
reactant | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
product | 2′-oxo-1′-pentyl-1′,2′-dihydrospiro[1-benzofuran-3,3′-indole]-5-carbonitrile | O=C1N(C2=CC=CC=C2C12COC1=C2C=C(C=C1)C#N)CCCCC | C21H20N2O2
